US05183925
1.34 g of (4-(2-iodophenoxy)-butyric acid ethyl ester and 6.4 g of (E)-1,2-bis-(tri-n-butylstannyl)-ethylene (50%) are dissolved in 12 ml of toluene, mixed with 94 mg of tetrakis-(triphenylphosphine)-palladium and heated with stirring and argon atmosphere for 2 hours to 70°-80° C. (bath temperature). After cooling to room temperature, the reaction mixture is diluted with 12 ml of diethyl ether and treated with a solution of 2.04 g of iodine in 10 ml of diethyl ether, worked up and chromatographed on silica gel with n-hexane/ethyl acetate=95/5 under the conditions of example 2C. 900 mg of 4-[-[(E)-2-iodovinyl]-phenoxy]-butyric acid ethyl ester is obtained as a yellow oil.

reactant | 4-(2-iodophenoxy)-butyric acid ethyl ester | C(C)OC(CCCOC1=C(C=CC=C1)I)=O | C12H15IO3
reactant | (E)-1,2-bis-(tri-n-butylstannyl)-ethylene | 6.4 g | C(CCC)[Sn](\C=C\[Sn](CCCC)(CCCC)CCCC)(CCCC)CCCC
reactant | iodine | 2.04 g | II | I2
solvent | toluene | 12 ml | C1(=CC=CC=C1)C | C7H8
solvent | diethyl ether | 12 ml | C(C)OCC | C4H10O
solvent | diethyl ether | 10 ml | C(C)OCC | C4H10O
catalyst | tetrakis-(triphenylphosphine)-palladium | 94 mg | [Pd].C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1.C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1.C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1.C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1
product | 4-[-[(E)-2-iodovinyl]-phenoxy]-butyric acid ethyl ester | 900 mg | C(C)OC(CCCOC1=C(C=CC=C1)\C=C\I)=O | C14H17IO3
